US05093356
(Z)-N-Hydroxy-N-methyl-5-fluoro-2-methyl-1-(4-methylthiobenzylidene)inden-3-ylacetamide
To a suspension of (Z)-5-fluoro-2-methyl-1-(4-methylthiobenzylidene) inden-3-ylacetic acid (U.S. Pat. No. 3,647,858; U.S. Pat. No. 3,654,349; J.O.C. Vol 42, 1914-1919 (1977) (130 mg, 0.38 mmol) in methylene chloride (3 mL) at room temperature there was added oxalyl chloride (96.5 mg, 0.76 mmol) and one drop of N, N-dimethylformamide (DMF). When gassing had subsided another drop of DMF was added and stirring was continued for 30 minutes. This solution was added, at 0° C., to a mixture of N-methyl hydroxylamine hydrochloride (125 mg, 1.5 mmol) and triethylamine (253 mg, 2.5 mmol) in tetrahydrofuran (THF) (5 mL). After 30 minutes at 0° C., the mixture was diluted with water and ethyl acetate and acidified with 1N aqueous HCl. The crude product from the organic extract was crystallized from a mixture of ethyl acetate and hexane to afford the title product as yellow-orange crystals, mp: slow decomp. from 118° C.

reactant | (Z)-5-fluoro-2-methyl-1-(4-methylthiobenzylidene) inden-3-ylacetic acid | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=C(C=C1)SC)C)CC(=O)O | C20H17FO2S
reactant | oxalyl chloride | 0.76 mmol, 96.5 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-methyl hydroxylamine hydrochloride | 1.5 mmol, 125 mg | Cl.CNO
reactant | triethylamine | 2.5 mmol, 253 mg | C(C)N(CC)CC | C6H15N
reactant | HCl | 1N | Cl | ClH
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | N, N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C=O)C | C3H7NO
product | (Z)-N-Hydroxy-N-methyl-5-fluoro-2-methyl-1-(4-methylthiobenzylidene)inden-3-ylacetamide | ON(C(CC1=C(/C(/C2=CC=C(C=C12)F)=C/C1=CC=C(C=C1)SC)C)=O)C | C21H20FNO2S
